US07459562B2
B) 4-(4-Amino-2-fluorophenoxy)pyridin-2-amine
Palladium hydroxide on carbon (10%, 0.050 g) was added to a solution of 4-(4-amino-2-fluorophenoxy)-N-benzylpyridin-2-amine (0.245 g, 0.790 mmol, 1.0 eq) in 5% HCO2H-MeOH (10 mL) under a blanket of hydrogen (from a balloon) at room temperature. The reaction mixture was stirred at room temperature for 12 h, filtered through Celite® and the filtrate concentrated in vacuo. The residue was purified by reverse phase preparative HPLC (YMC ODS-A S10 30×500 mm., 10-90% aqueous MeOH with 0.1% TFA, 30 minute gradient) and the appropriate fractions were concentrated in vacuo. The concentrate was neutralized with saturated aqueous NaHCO3 solution and the mixture was extracted with CHCl3 (3×35 mL). The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound (0.045 g, 26%) as a solid. 1H NMR (CD3OD) δ 7.62-7.63 (m, 1H), 6.77-6.82 (m, 1H), 6.38-6.47 (m, 2H), 6.09-6.11 (m, 1H), 5.83-5.84 (m, 1H); MS(ESI+) m/z 220 (M+H)+; HRMS(ESI+) calcd.: 220.0886, found: 220.0877.

reactant | 4-(4-amino-2-fluorophenoxy)-N-benzylpyridin-2-amine | 0.790 mmol, 0.245 g, 1.0 eq | NC1=CC(=C(OC2=CC(=NC=C2)NCC2=CC=CC=C2)C=C1)F | C18H16FN3O
reactant | hydrogen | [H][H] | H2
solvent | HCO2H MeOH | 10 mL | C(=O)O.CO
catalyst | Palladium hydroxide on carbon | 0.050 g | [OH-].[OH-].[Pd+2]
product | 4-(4-Amino-2-fluorophenoxy)pyridin-2-amine | 0.045 g, 26% | NC1=CC(=C(OC2=CC(=NC=C2)N)C=C1)F | C11H10FN3O
